US05569664
This compound was prepared in a manner analogous to that of Step B of Example 3, with 2.0 grams (0.008 mole) of ethyl N-(thien-2-ylmethyl)piperidin-4-ylcarboxylate, 3.5 mL (0.024 mole) of 4-trifluoromethoxyphenyl bromide, and 0.6 gram (0.025 gram-atom) of magnesium turnings in about 69 mL of tetrahydrofuran as reagents. The crude reaction product was subjected to column chromatography on silica gel, with pure methylene chloride, 9:1 methylene chloride:acetone, pure acetone, and then 8:2 methylene chloride:acetone as eluants. The product-containing fractions were combined and concentrated under reduced pressure, yielding about 0.2 gram of N-(thien-2-ylmethyl)-4-[bis(4-trifluoromethoxyphenyl)hydroxymethyl]piperidine. The NMR spectrum was consistent with the proposed structure.

reactant | ethyl N-(thien-2-ylmethyl)piperidin-4-ylcarboxylate | 0.008 mole, 2.0 grams | S1C(=CC=C1)CN1CCC(CC1)C(=O)OCC | C13H19NO2S
reactant | 4-trifluoromethoxyphenyl bromide | 0.024 mole, 3.5 mL | FC(OC1=CC=C(C=C1)Br)(F)F | C7H4BrF3O
reactant | magnesium | 0.6 gram | [Mg] | Mg
solvent | tetrahydrofuran | about 69 mL | O1CCCC1 | C4H8O
solvent | acetone | CC(=O)C | C3H6O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-(thien-2-ylmethyl)-4-[bis(4-trifluoromethoxyphenyl)hydroxymethyl]piperidine | about 0.2 gram | S1C(=CC=C1)CN1CCC(CC1)C(O)(C1=CC=C(C=C1)OC(F)(F)F)C1=CC=C(C=C1)OC(F)(F)F | C25H23F6NO3S
